US08012976B2
4-Benzyl 1-tert-butyl 2,6-dimethylpiperazine-1,4-dicarboxylate
To a solution of 2,6-dimethylpiperazine (2.28 g, 20 mmol) in methylene chloride (15 mL) at 0° C. was added benzylchloroformate (3.0 mL) dropwise. The mixture was stirred at 0° C. for one hour then at room temperature for 2 hours. The mixture was cooled to 0° C., Diisopropylethylamine (4.5 mL) was added and followed by (Boc)2O (4.8 g, 22 mmol). The mixture was stirred at room temperature overnight and then the solvent was removed by rotary evaporation. The residue was dissolved in EtOAc, washed with water and brine, dried over Na2SO4, and purified by column chromatography on silica gel (EtOAc:hexane=1:9) to give an oily intermediate (4.8 g, 72%). LC-MS (ESI) m/z: 361 (M+23)+.

reactant | 2,6-dimethylpiperazine | 20 mmol, 2.28 g | CC1NC(CNC1)C | C6H14N2
reactant | benzylchloroformate | 3.0 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | Diisopropylethylamine | 4.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (Boc)2O | 22 mmol, 4.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-Benzyl 1-tert-butyl 2,6-dimethylpiperazine-1,4-dicarboxylate | 4.8 g, 72% | CC1N(C(CN(C1)C(=O)OCC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C19H28N2O4
